************************************************************************
* auCdl Netlist:
* 
* Library Name:  FULLADDER
* Top Cell Name: FULL_ADDER
* View Name:     schematic
* Netlisted on:  Nov 21 14:23:21 2025
************************************************************************

.INCLUDE  /CMC/kits/tsmc180_BCD.1.6a.2fF.40kA/tsmc18/../Calibre/lvs/source.added
*.EQUATION
*.LDD
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: FULLADDER
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND VA VB VDD VOUT VSS
*.PININFO VA:I VB:I VOUT:O VDD:B VSS:B
MM1 VOUT VB VDD VDD P l=180.0n w=1.71u m=1
MM0 VOUT VA VDD VDD P l=180.0n w=1.71u m=1
MM3 net19 VB VSS VSS N l=180.0n w=1u m=1
MM2 VOUT VA net19 VSS N l=180.0n w=1u m=1
.ENDS

************************************************************************
* Library Name: FULLADDER
* Cell Name:    FULL_ADDER
* View Name:    schematic
************************************************************************

.SUBCKT FULL_ADDER CIN COUT SUM VA VB VDD VSS
*.PININFO CIN:I VA:I VB:I COUT:O SUM:O VDD:B VSS:B
XI19 net12 net9 VDD COUT VSS / NAND
XI18 net11 net12 VDD net19 VSS / NAND
XI17 net19 net18 VDD SUM VSS / NAND
XI16 net11 CIN VDD net12 VSS / NAND
XI15 net12 CIN VDD net18 VSS / NAND
XI14 net17 net16 VDD net11 VSS / NAND
XI13 VA VB VDD net9 VSS / NAND
XI12 net9 VB VDD net16 VSS / NAND
XI11 VA net9 VDD net17 VSS / NAND
.ENDS

