************************************************************************
* auCdl Netlist:
* 
* Library Name:  FULLADDER
* Top Cell Name: NAND
* View Name:     schematic
* Netlisted on:  Nov 19 17:47:26 2025
************************************************************************

.INCLUDE  /CMC/kits/tsmc180_BCD.1.6a.2fF.40kA/tsmc18/../Calibre/lvs/source.added
*.EQUATION
*.LDD
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: FULLADDER
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND VDD VSS Va Vb Vout
*.PININFO Va:I Vb:I Vout:O VDD:B VSS:B
MM1 Vout Vb VDD VDD P l=180.0n w=1.71u m=1
MM0 Vout Va VDD VDD P l=180.0n w=1.71u m=1
MM3 net19 Vb VSS VSS N l=180.0n w=1u m=1
MM2 Vout Va net19 VSS N l=180.0n w=1u m=1
.ENDS

